US07652021B2
(i) 3-Benzyl-3-azabicyclo[3.2.1]octan-8-one oxime
The mixture of 19 g (88 mmole) of 3-benzyl-3-azabicyclo[3.2.1]octan-8-one (J. Med. Chem. 1994, 37, 2831), 200 ml of ethanol, 8.78 g (126.4 mmole) of hydroxylamine hydrochloride and 13 ml of pyridine are heated and stirred on a 100° C. oil-bath, then the mixture is evaporated. To the residue 65 ml of 2.5 N sodium hydroxide solution is added, the resulting solution is extracted with 3×120 ml of ethyl acetate. The extractum is dried over sodium sulphate and evaporated. The resulting oil is purified by column chromatography (n-hexane-ethyl acetate from 9:1 to 1:1) to obtain 11.05 g (54%) of white, crystalline material. M.p.: 92-95° C. (MH+)=231.

reactant | 3-benzyl-3-azabicyclo[3.2.1]octan-8-one | 88 mmole, 19 g | C(C1=CC=CC=C1)N1CC2CCC(C1)C2=O | C14H17NO
reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | hydroxylamine hydrochloride | 126.4 mmole, 8.78 g | Cl.NO
solvent | pyridine | 13 ml | N1=CC=CC=C1 | C5H5N
product | 3-Benzyl-3-azabicyclo[3.2.1]octan-8-one oxime | C(C1=CC=CC=C1)N1CC2CCC(C1)C2=NO | C14H18N2O
